US08530663B2
Pd(OH)2/C (690 mg) was added to a solution of 3′,6′-dihydro-2′H-[2,4]bipyridinyl-3,1′-dicarboxylic acid 1′-t-butyl ester 3-methyl ester (2.0 g, 6.3 mmol, 1.0 eq.) in PE (220 mL) and EtOAc (50 mL). Hydrogen gas (1 atm) was introduced into the reaction vessel, and the solution was stirred for 20 hours at room temperature. The reaction mixture was filtered and the remaining mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:8) to yield 3′,4′,5′,6′-tetrahydro-2′H-[2,4]bipyridinyl-3,1′-dicarboxylic acid 1′-t-butyl ester 3-methyl ester (1.2 g) as a colorless oil.

reactant | 3′,6′-dihydro-2′H-[2,4]bipyridinyl-3,1′-dicarboxylic acid 1′-t-butyl ester 3-methyl ester | 6.3 mmol, 2.0 g, 1.0 eq. | COC(=O)C=1C(=NC=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O4
reactant | Hydrogen | [H][H] | H2
catalyst | Pd(OH)2/C | 690 mg | [OH-].[OH-].[Pd+2]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3′,4′,5′,6′-tetrahydro-2′H-[2,4]bipyridinyl-3,1′-dicarboxylic acid 1′-t-butyl ester 3-methyl ester | 1.2 g | COC(=O)C=1C(=NC=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
